US06576643B2
f) Ethyl (±)-10,11-dihydro-3-methoxydibenzo[b,f]oxepine-10-acetate
Boron trifluoride etherate (0.48 mL, 3.9 mmole) was added to a solution of ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxydibenzo[b,f]oxepine-10-acetate (690 mg, 1.95 mmole) and triethylsilane (0.62 mL, 3.9 mmole) in dry CH2Cl2 at 0° C. under argon. After 20 min, the reaction was quenched with 5% NaHCO3, and the mixture was extracted with CH2Cl2. Drying (MgSO4) and concentration gave a yellow oil. This was dissolved in absolute ethanol (20 mL) and 10% Pd/C (413 mg, 0.39 mmole) was added. The mixture was hydrogenated for 3 hr at 50 psi on a Parr hydrogenation apparatus. The catalyst was removed by filtration through celite®, and the filtrate was concentrated to afford the title compound (523 mg, 86%) as a clear oil. 1H NMR (300 MHz, CDCl3) δ7.18-6.58 (m, 7 H), 4.18-4.08 (m, 2 H), 3.80 (s, 3 H), 3.80-3.74(m, 1 H), 3.40-3.30 (dd, 1 H). 2.98-2.84 (dd, 1 H), 2.74-2.62 (dd, 1 H), 2.60-2.52(m, 1 H), 1.32-1.20 (t, 3 H).

reactant | Boron trifluoride etherate | 3.9 mmole, 0.48 mL | B(F)(F)F.CCOCC
reactant | ethyl (±)-10,11-dihydro-10-hydroxy-3-methoxydibenzo[b,f]oxepine-10-acetate | 1.95 mmole, 690 mg | OC1(CC2=C(OC3=C1C=CC=C3)C=C(C=C2)OC)CC(=O)OCC | C19H20O5
reactant | triethylsilane | 3.9 mmole, 0.62 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | Pd/C | 0.39 mmole, 413 mg | [Pd] | Pd
product | Ethyl (±)-10,11-dihydro-3-methoxydibenzo[b,f]oxepine-10-acetate | 523 mg, 86% | COC=1C=CC2=C(OC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C19H20O4
